datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[C:10](=[C:11](\C2=CC=CC=C2)[O-:12])[C:61](C2=CC=CC=C2)=[O:62])C=C1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C2=CC=CC=C2)([C:11](C2=CC=CC=C2)=[O:12])[C:61](C2=CC=CC=C2)=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].[CH2:20]=[CH:21][C:22]#[N:23]>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH2:20][CH:21]=[C:22]=[N-:23])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1>>CO[C:63]1=[C:62]([N:61]2[C:10]([CH:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:41]=[C:42](C3=CC=CC=C3)[C:53]3=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20
"C1=CC=C([S:61](/[CH:10]=[C:11]2\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]2)(=[O:62])=[O:72])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>C[C:20]1([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC(C)(C)C[CH:11]([H:10])[CH2:62][Sn:63](C)(C)C>>C1C[C:20]([H:10])([O-:21])CCS1.CC(C)(C)C[CH+:11][CH2:62][Sn:63](C)(C)C 10,11=10,20;20,21=21"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>COC1=CC=C([C:11]([CH2:10][CH:20]2CCC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([NH2+:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23] 10=20;20,21=21,22;22,23=23"
"C[N:10](C)[NH:61][CH:62]=[O:63].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[N+:10](C)([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[NH:61][CH:62]=[O:63] 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C.C[C:11](=[N:10][C:61](C)=[O:62])[O-:12]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([C:10](OC)([C:61](=[O:62])[O:92]CC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1=CC=[C:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:72][C:61]([C-:10](C)[C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([C:10](C)([C:20]1([O-:21])CCC2(CC1)OCCO2)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[O:82][C:71]([C-:10](C)[C:61](=[O:62])[O:92]CC)=[O:72]>>CC[O:82][C:71]([C:10](C)([CH:20](C(F)(F)F)[C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23,24;24,25=25"
